US07465731B2
A mixture of ethyl (2Z)-3-(6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylate and ethyl (2E)-3-(6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylate (1:1, 1.15 g), di-tert-butyl dicarbonate (1.34 g, 6.1 mmol) and 4-dimethylaminopyridine (11 mg) in tetrahydrofuran (20 mL) was stirred at 60° C. for 48 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between water and EtOAc. The organic layer was separated, washed water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (CHCl3/methanol=95/5) and preparative thin layer chromatography (CHCl3/methanol=15/1) to give ethyl (2Z)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylate (575 mg) as an oil.

reactant | ethyl (2Z)-3-(6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylate | C1(CCCCC1)CN1C[C@@H](CC1)NC1=CC=C(C=N1)\C=C(\C(=O)OCC)/F | C21H30FN3O2
reactant | ethyl (2E)-3-(6-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylate | 1.15 g | C1(CCCCC1)CN1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C(\C(=O)OCC)/F | C21H30FN3O2
reactant | di-tert-butyl dicarbonate | 6.1 mmol, 1.34 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 11 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl (2Z)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylate | 575 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)\C=C(\C(=O)OCC)/F)[C@H]1CN(CC1)CC1CCCCC1 | C26H38FN3O4
